US07511144B2
Into a cooled (−10° C.) solution of 5.25 g (21.68 mmol) of 2-fluoro-2-phosphonoacetic acid triethyl ester in tetrahydrofuran (30 mL) under an atmosphere of argon was dropped 13.2 mL (19.87 mmol) of 1.5 mol/L n-butyllithium in hexane (available from KANTO KAGAKU). After stirring for 20 minutes at room temperature, 2.0 g (19.87 mmol) of tetrahydropyran-4-one was dropped thereto and stirred for 2 hours at about 55° C. The obtained mixture was left to cool to room temperature and then poured into water, followed by extraction with ether. The ether extract was washed with water (three times) and saturated brine and dried over anhydrous magnesium sulfate, and the solvent was removed. The obtained residue was purified by medium pressure liquid column chromatography on silica gel (developing solvent: hexane-ethyl acetate) to obtain 3.32 g (yield 88.8%) of fluoro-(tetrahydropyran-4-ylidene)acetic acid ethyl ester (IX-16) as colorless liquid. Its physical property is shown blow.

reactant | 2-fluoro-2-phosphonoacetic acid triethyl ester | 21.68 mmol, 5.25 g | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | n-butyllithium | 19.87 mmol, 1.5 mol/L, 13.2 mL | C(CCC)[Li]
reactant | tetrahydropyran-4-one | 19.87 mmol, 2.0 g | O1CCC(CC1)=O | C5H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | fluoro-(tetrahydropyran-4-ylidene)acetic acid ethyl ester | 3.32 g, yield 88.8% | C(C)OC(C(=C1CCOCC1)F)=O | C9H13FO3
